US05096724
1,11-Bis(2-pyridyl)-2,6,10-triazaundecane · 3HCl
Pyridine-2-carboxaldehyde (4.3 g, 0.04 mole) and 1,5,9-triazanonane (2.6 g, 0.02 mole) [bis(aminopropyl)- amine; available from Aldrich Chemical Company] were dissolved in ca. 60 ml of absolute ethanol and warmed (ca. 50° C.) with stirring for 10 minutes. The solution was hydrogenated at room temperature over 1.5 g of 5% Pd on charcoal in an atmosphere of hydrogen. After the calculated amount of hydrogen (0.04 mole; ca. 0.90 1 at 25° C. and 1 atm. pressure) had been consumed, the charcoal catalyst was removed by filtration, and dry HCl gas was bubbled into the solution until no further white precipitate formed. After removing the precipitate by filtration of the cooled solution, the product was washed with absolute ethanol, dried, and recrystallized from 95% ethanol.

reactant | Pyridine-2-carboxaldehyde | 0.04 mole, 4.3 g | N1=C(C=CC=C1)C=O | C6H5NO
reactant | 1,5,9-triazanonane | 0.02 mole, 2.6 g | NCCCNCCCN | C6H17N3
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | 0.04 mole | [H][H] | H2
solvent | ethanol | ca. 60 ml | C(C)O | C2H6O
catalyst | Pd on charcoal | 1.5 g | [Pd] | Pd
product | 1,11-Bis(2-pyridyl)-2,6,10-triazaundecane | N1=C(C=CC=C1)CNCCCNCCCNCC1=NC=CC=C1 | C18H27N5
